US08048878B2
Synthesis of 9H-fluoren-9-ylmethyl (3S,5R)-3-hydroxymethyl-5-(3,4,5-trifluorophenyl)morpholine-4-carboxylate
9-Fluorenylmethyl chloroformate (327 mg) was added to a mixed solution of [(3S,5R)-5-(3,4,5-trifluorophenyl)morpholin-3-yl]methanol (250 mg) in dichloromethane (5 mL) and a saturated sodium bicarbonate solution (5 mL), and the reaction solution was stirred at room temperature for six hours. Dichloromethane and a saturated ammonium chloride solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: heptane->heptane:ethyl acetate=2:1) to obtain 470 mg of the title compound. The property values of the compound are as follows.

reactant | 9-Fluorenylmethyl chloroformate | 327 mg | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | [(3S,5R)-5-(3,4,5-trifluorophenyl)morpholin-3-yl]methanol | 250 mg | FC=1C=C(C=C(C1F)F)[C@@H]1COC[C@@H](N1)CO | C11H12F3NO2
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 9H-fluoren-9-ylmethyl (3S,5R)-3-hydroxymethyl-5-(3,4,5-trifluorophenyl)morpholine-4-carboxylate | 470 mg | OC[C@@H]1N([C@@H](COC1)C1=CC(=C(C(=C1)F)F)F)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C26H22F3NO4
